US04530715
14.8 g (0.1 mol) of chloral were added dropwise to 7.6 g (0.05 mol) of 1,2,4-triazol-1-yl-acetyl-cyclopropane, 7.5 g of glacial acetic acid and 4.1 g (0.05 mol) of sodium acetate, the internal temperature increasing to approx. 42° C. The reaction mixture was stirred for 5 hours at 80° C. and for 12 hours at room temperature, and was then introduced onto water. The resulting precipitate was filtered off under suction and recrystallized from toluene. 8.6 g (57.6% of theory) of 1,1,1-trichloro-2-hydroxy-3-(1,2,4-triazol-1-yl)-4-cyclopropyl-butan-4-one of melting point 173° to 175° C. were obtained.

reactant | chloral | 0.1 mol, 14.8 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | 1,2,4-triazol-1-yl-acetyl-cyclopropane | 0.05 mol, 7.6 g | N1(N=CN=C1)C1(CC1)C(C)=O | C7H9N3O
reactant | sodium acetate | 0.05 mol, 4.1 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 7.5 g | C(C)(=O)O | C2H4O2
product | 1,1,1-trichloro-2-hydroxy-3-(1,2,4-triazol-1-yl)-4-cyclopropyl-butan-4-one | 8.6 g, 57.6% | ClC(C(C(C(=O)C1CC1)N1N=CN=C1)O)(Cl)Cl | C9H10Cl3N3O2
